Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Cephalosporins / Penicillins / amoxicillin / Augmentin
 
Attending: ___.
 
Chief Complaint:
VT
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ no other medical hx who initially presented to OSH with 
palpitations and transferred for VT. For last 2 wks having freq 
episodes of palpitations, warm feeling, dizziness, lasting 
seconds. Was eval at ___, about to receive stress testing, 
had an episode and found to be having monomorphic VT ___ 
bts, self terminating). Bolused amio and started on gtt @1. 
Transferred for further eval. Denies any recent exertional chest 
pain c/f ischemia. No recent illness or sick contacts. Family hx 
with grandmother with ?arrhythmia later in life, brother with 
bicuspid AV, otherwise no SCD.  
 In the ED, initial vitals: 97.7 102 148/72 16 100RA  
 
 - Labs notable for: Mg 2.2, K 3.7, lytes/CBC nl, tropX1 neg  
 - Imaging notable for: CXR unremarkable  
 - Seen by cards: REcs: -- would treat with BBlocker rather than 
amiodarone  
 -- please start metop tartrate 25mg q6hr, first dose now  
 -- after first dose, wean amio gtt to 0.5/hr  
 -- if rates controlled and ectopy improved, wean amio gtt to 
off  
 - Patient given: amio gtt @1 and metop 25mg PO once, started 
Q6H  
 - Vitals prior to transfer: 78 121/67 16 100RA  
 On arrival to the floor, pt with no complaints.  
 REVIEW OF SYSTEMS: 10 unit ROS negative unless positive per HPI 
 

 
Past Medical History:
none
 
Social History:
___
Family History:
grandmother with ?arrhythmia later in life, brother with 
bicuspid AV, otherwise no SCD 
 
Physical Exam:
ADMISSION:
==========
General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
 Ext: Warm, well perfused, no cyanosis or edema  
 Skin: Without rashes or lesions  
 Neuro: A&Ox3. Grossly intact.  

DISCHARGE:
==========
 Vitals: T=98.2 Tmax=99  HR=50's BP=92-103/61-68 RR=18 
O2=98-100% on RA  
 I/O= (8hrs)NPO/NR, (24hrs) 1840/NR 
 Weight:  77.2kg
 Weight on admission:  78.5kg
 Telemetry: many PVCs 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, no cyanosis or edema  
Skin: Without rashes or lesions  
Neuro: A&Ox3. Grossly intact.
 
Pertinent Results:
LABS:
=====
___ 09:25PM   GLUCOSE-111* UREA N-10 CREAT-0.7 SODIUM-144 
POTASSIUM-3.7 CHLORIDE-110* TOTAL CO2-22 ANION GAP-16
___ 09:25PM   estGFR-Using this
___ 09:25PM   cTropnT-<0.01
___ 09:25PM   CALCIUM-9.2 PHOSPHATE-1.7* MAGNESIUM-2.2
___ 09:25PM   WBC-6.3 RBC-4.08 HGB-13.0 HCT-37.5 MCV-92 
MCH-31.9 MCHC-34.7 RDW-12.3 RDWSD-41.1
___ 09:25PM   NEUTS-79.2* LYMPHS-13.7* MONOS-5.4 EOS-0.5* 
BASOS-0.9 IM ___ AbsNeut-5.02 AbsLymp-0.87* AbsMono-0.34 
AbsEos-0.03* AbsBaso-0.06
___ 09:25PM   PLT COUNT-231
___ 09:25PM   ___ PTT-31.8 ___

IMAGING:
========
___ EKG:
Monomorphic VT with left bundle morphology, inferior/right axis, 
R wave transition in V4, suggestive of RVOT. No specific 
ischemic changes.

___ CXR:
No acute cardiopulmonary process. 

___ TTE:
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. Left ventricular wall thicknesses are 
normal. The left ventricular cavity size is top 
normal/borderline dilated. Regional left ventricular wall motion 
is normal. Overall left ventricular systolic function is low 
normal (LVEF 50-55%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

IMPRESSION: Borderline dilated left ventricular cavity with low 
normal global systolic function and normal regional function. No 
pathologic valvular flow. 

PROCEDURES:
===========
___ ETT:
INTERPRETATION: This ___ year old woman with a history of VT now 
on 
beta-blocker was referred to the lab for evaluation. The patient 

exercised for 10 minutes of ___ protocol to a workload of 
___ METS 
and stopped for fatigue. This represents an average functional 
capacity 
for her age. There were no complaints of palpitations, 
presyncope or 
chest discomfort. There were no significant ST segment changes 
noted. 
The rhythm was sinus with occasional isolated VPBs at rest that 
continued during exercise. In the recovery phase ventricular 
couplets as 
well as one 4 beat run of VT. The hemodynamic and heart rate 
response 
to exercise were blunted in the setting of beta-blockade. 
IMPRESSION: No exercise induced arrhythmia, anginal or 
pre-syncopal 
symptoms. No ischemic EKG changes. 

 
Brief Hospital Course:
___ no other medical history who initially presented to OSH with 
palpitations, found to have monorphic VT. 

VT: She presented with 2 weeks of palpitations, dizziness, 
lightheadedness and found to have monomorphic VT; ekg showed 
monomorphic VT with left bundle morphology, inferior/right axis, 
R wave transition in V4, suggestive of RVOT. She was evaluated 
by EP, likely originating from RVOT and not ischemic (troponins 
were negative x2). She was started on amiodarone drip in ED, and 
then switched to on metoprolol. TTE showed no structural heart 
disease. ETT was normal on metoprolol and VT was not induced. 
She was discharged with ___ of hearts monitor.

********Transitional Issues**********
-Follow up with Dr. ___ in 4 weeks (Patient given 
office contact information as was discharged on a weekend)
-___ of hearts monitor for 3 weeks
  
 
Medications on Admission:
estrogen patch
 
Discharge Medications:
1.  Metoprolol Tartrate 50 mg PO BID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth twice a day 
Disp #*100 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
VT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You came to the hospital because you were experiencing heart 
palpitations. You were found to be in an abnormal heart rhythm 
called ventricular tachycardia which resolved.

What happened to you during your hospital stay?
- We gave you medications to treat your heart rhythm
- We did an echocardiogram of your heart, which showed no 
abnormalities to explain your abnormal heart rhythm
- You did an exercise stress test on medication, which was 
normal
- You were given a heart monitor to use which will be analyzed 
by your new cardiologist Dr. ___

___ should you do when you leave the hospital?
- Wear your heart monitor for 2 weeks
- You should take your new medication as prescribed.
- Make sure to keep all your doctors ___.

NEW MEDICATION:
Metoprolol tartrate 50 mg twice daily

It was a pleasure taking care of you.
Your ___ team
 
Followup Instructions:
___